US07423059B2
Part II: Preparation of N-Boc-2,5-diphenylpyrrole
4-Dimethylaminopyridine (DMAP) (5.4 mg, 0.046 mmol) and di-tertbutyldicarbonate (100 mg. 0.456 mmol) were added to a solution of 2,5-diphenylpyrrole (100 mg, 0.456 mmol) in dry acetonitrile (5 ml) under argon. The reaction mixture was refluxed for 5 hours. The crude product was purified on silica gel column with hexanes/ethyl acetate (10/1) as eluant. The product was collected, concentrated and dried to afford the title compound. N-t-butyloxycarbonyl-2,5-diphenylpyrrole as an oil (126 mg. 86.6%). 1H-NMR (CDCl3): δ ppm 7.25-7.55 (in, ArH, 10H), 6.6 (d, ArH, 2H), 1.17 (s, CH3, 9H).

reactant | di-tertbutyldicarbonate | 0.456 mmol, 100 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2,5-diphenylpyrrole | 0.456 mmol, 100 mg | C1(=CC=CC=C1)C=1NC(=CC1)C1=CC=CC=C1 | C16H13N
catalyst | 4-Dimethylaminopyridine | 0.046 mmol, 5.4 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | N-Boc-2,5-diphenylpyrrole | C(=O)(OC(C)(C)C)N1C(=CC=C1C1=CC=CC=C1)C1=CC=CC=C1 | C21H21NO2
